Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___
 
Chief Complaint:
fever, altered mental status
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo woman with h/o ESRD s/p cadaveric 
transplant ___ y ago, h/o cerebral aneurysm, admitted in ___ for 
urosepsis, presented to ___ clinic at ___ for fevers, 
aches, confusion, and referred to ED for further evaluation. 
History is very limited as patient unable to provide and ___ 
notes are minimal. Reportedly she had several weeks of 
subjective fevers, chills, vomiting, and confusion.

In the ED, initial vitals were:  97.8 81 97/69 16 85%RA. Exam 
was notable for mild diffuse abdominal tenderness. Labs notable 
for WBC 6.4, BUN/Cr 39/2.6. Renal ultrasound was done which was 
notable for increased intrarenal arterial resistance compared 
with prior ___. CT abdomen/pelvis and CT head were 
unremarkable. She was given 2L NS, 500 mg IV meropenem, and 2 g 
Mg sulfate.

On the floor, patient is complaining of aching all over and 
feeling cold. She is unable to provide more specifics. She 
becomes very agitated in the middle of the exam and says that 
she wants us to take out her kidney, or put her kidney in the 
right place.
 
Past Medical History:
# s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and tacrolimus; baseline Cr 
1.0-1.2   
# CAD: NSTEMI ___, s/p cardiac cath without intervention 
# Paroxysmal atrial fibrillation 
# HTN  
# Hyperlipidemia  
# Diastolic dysfunction  
# H/o DVT  
# Hypothyroidism  
# s/p craniotomy for ICH (?intracranial aneurysm)  
# Osteopenia ___ chronic steroid use
# Osteonecrosis of bilateral feet c/b osteomyelitis 
# MRSA osteo ___  
# osteonecrosis of L hip requiring surgical intervention and 
girdlestone procedure
# s/p foot surgeries  
# Acute interstitial nephritis ___ presumably from ranitidine 
 
# small intestinal adenoma with endoscopic resection c/b bowel 
perforation requiring ex-lap in ___  
# s/p cholecystecomy, s/p appendectomy  
# Hx of c.diff 2 and ___ yrs ago  
# recurrent UTI (lower urinary tract infection)  
# Anemia  of chronic disease
# Panic disorder  
# Polyneuropathy in renal disease  
# Chronic low back pain  
# GERD
# Cataract surgery  
# Hearing loss of both ears   
 
Social History:
___
Family History:
 Father died ___ CAD at age ___.  
 Mother died young of unknown causes.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vital Signs:  97.9 119/68 95 20 98%/3L NC
General: Lying in bed, intermittently agitated, very somnolent 
but arousable, NAD
HEENT: MMM
CV: RRR, II/VI systolic murmur loudest RUSB  
Lungs: Clear to auscultation anteriorly
Abdomen: Soft, nondistended, well healed surgical incisions. 
?Tender without rebound/guarding 
Ext: WWP, venous stasis changes in LEs with 2+ edema. Question 
tenderness 
Neuro: AOx1, somnolent  

DISCHARGE PHYSICAL EXAM: 
Vitals: 97.9 126/71 74 20 98RA 
General: AAOx3 but unable to fully recall details of our 
conversation yesterday, inattentive at times 
HEENT: PERRL. Sclera anicteric   
Lungs: CTAB 
CV: RRR
Abdomen: soft, no TTP   
Ext: Warm, 1+ edema bilaterally. TTP on R greater trochanter. 
Neg hip log roll ___.   
Skin:  Echymosses on bilateral arms and legs 
Neuro:  CN2-12 intact, ___ strength ___ UE and intact 
dorsiflexion/plantar flexion of lower extremities. Unable to 
lift L leg off bed, states this is baseline. RLE lift off bed 
against minimal resistance. PERRL. 

 
Pertinent Results:
ADMISSION LABS:

___ 12:29PM BLOOD WBC-6.4 RBC-3.58* Hgb-9.4* Hct-32.5* 
MCV-91 MCH-26.3 MCHC-28.9* RDW-16.3* RDWSD-53.8* Plt ___
___ 12:29PM BLOOD Glucose-74 UreaN-39* Creat-2.6*# Na-138 
K-4.2 Cl-102 HCO3-26 AnGap-14
___ 12:29PM BLOOD ALT-7 AST-17 LD(LDH)-148 AlkPhos-63 
TotBili-0.6 DirBili-0.3 IndBili-0.3
___ 12:29PM BLOOD Albumin-3.1* Calcium-9.5 Phos-4.9*# 
Mg-1.5*
___ 12:29PM BLOOD tacroFK-4.4*

PERTINENT LABS:

___ 12:45PM BLOOD Lactate-1.3
___ 12:29PM BLOOD Hapto-329*
___ 06:25AM BLOOD calTIBC-200* VitB12-302 Folate-13.2 
Ferritn-167* TRF-154*
___ 12:29PM BLOOD TSH-1.3
___ 06:25AM BLOOD Cortsol-10.3

DISCHARGE LABS:
___ 09:50AM BLOOD WBC-6.5 RBC-4.04 Hgb-10.7* Hct-35.7 
MCV-88 MCH-26.5 MCHC-30.0* RDW-16.6* RDWSD-52.8* Plt ___
___ 09:50AM BLOOD Plt ___
___ 09:50AM BLOOD Glucose-143* UreaN-14 Creat-1.7* Na-140 
K-3.7 Cl-104 HCO3-24 AnGap-16
___ 05:23AM BLOOD ALT-<5 AST-13 AlkPhos-57 TotBili-0.2
___ 09:50AM BLOOD Calcium-9.8 Phos-2.7 Mg-2.3
___ 09:50AM BLOOD tacroFK-PND

===============================================================

STUDIES:

___ Renal transplant ultrasound
1. Interval increase in the resistive indices of the intrarenal 
arteries.
2. No evidence of hydronephrosis or perinephric fluid 
collection.
3. A 4.4 cm simple cyst is seen in the superior pole of the 
right kidney.
4. A 3 mm echogenic stone is seen in the lower pole of the right 
kidney.

___ Chest X-ray
1. Mild cardiomegaly
2.  No acute cardiopulmonary process.
 
___ CT head without contrast
1. Study is mildly degraded by motion.
2. No evidence of acute intracranial abnormality.
3. Grossly stable partial opacification of the right sphenoid 
sinus with new 4mm hyperdensity compared to ___ prior exam.  
Differential considerations include chronic sinusitis or fungal 
sinusitis.
4.  Please note MRI of the brain is more sensitive for the 
detection of acute infarct.

___ CT abdomen/pelvis without contrast
1.  Within the limitations of a nonenhanced CT, no acute intra 
abdominal or
intrapelvic process to correlate with the patient's pain.
2.  Uncomplicated right lateral abdominal wall incisional hernia 
similar to
prior.

___ CXR 
IMPRESSION:  
There is a new PICC line inserted on the right the tip is in the 
proximal 
right atrium and could be pulled back 1 cm to be in the SVC 
right atrial 
junction if desired.  There is no pneumothorax, consolidation, 
effusion or 
CHF.  Aortic calcifications and tortuosity are present. 
  
NOTIFICATION:  Dr. ___ reported the findings to ___  by 
telephone on ___ at 9:47 AM, 5 minutes after discovery of 
the findings 

___ CT Head
IMPRESSION:     
1. Chronic changes as described above.  No evidence of 
hemorrhage or 
infarction. 
==============================================================
EKG 
 
ECG Study Date of ___  6:37:52 ___ 
Normal sinus rhythm. Significant underlying artifact in leads II 
and III. 
Non-specific T wave abnormalities inferiorly. Compared to 
tracing #2 atrial 
fibrillation is no longer appreciated. 
TRACING #3 
Rate 83 PR 150 QRS 76 QT 402 QTC442

ECG Study Date of ___  3:53:48 ___ 
Clinical indication for EKG: I49.9 - Cardiac dysrhythmias 
  
Atrial fibrillation with uncontrolled ventricular response. Poor 
R wave 
progression in leads V1-V3. Anterolateral ST segment changes, 
likely rate 
related. Compared to tracing #1 atrial fibrillation is a new 
finding. 
TRACING #2 
Rate 168 PR 74 QRS 282 QTc 471

ECG Study Date of ___  11:59:48 AM 
 
Normal sinus rhythm with frequent premature atrial contractions. 
EKG signal in leads V2-V3 is not available. Non-specific ST-T 
wave changes inferiorly. 
Compared to the previous tracing of ___ the findings are 
similar. 
TRACING #1 
R 89 PR 134 QR 82 QT410 QTC460

ECG Study Date of ___  8:00:54 AM 
Clinical indication for EKG: ___.899 - QT interval for 
medication 
monitoring 
  
Normal sinus rhythm with premature atrial contractions. 
Borderline prolonged Q-T interval. Compared to the previous 
tracing of ___ QTc interval is slightly longer. Last atrial 
premature contractions are noted. Otherwise, no significant 
change. 

R71 PR 156 QRS 86 QT 456 QTC___

===============================================================
MICROBIOLOGY:
__________________________________________________________
___ 12:24 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ @ 14:27 ON ___. 

      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 
__________________________________________________________
___ 5:23 am Immunology (CMV)      Source: Line-R PICC. 

                            **FINAL REPORT ___

   CMV Viral Load (Final ___: 
      CMV DNA not detected. 
      Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
      Linear range of quantification: 137 IU/mL - 9,100,000 
IU/mL. 
      Limit of detection 91 IU/mL. 
      This test has been verified for use in the ___ patient 
population. 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 10:07 am
      URINE     Site: CLEAN CATCH      CHEM # ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ___ MD (___) REQUESTS FOSFOMYCIN SUSCETIBLITY 
___. 
      ENTEROCOCCUS FAECALIS.    10,000-100,000 ORGANISMS/ML.. 
         SENSITIVE TO Fosfomycin sensitivity testing performed 
by ___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECALIS
                             |   
AMPICILLIN------------   <=2 S
LINEZOLID-------------     2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------  =>32 R
__________________________________________________________
___ 12:29 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 10:30 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
___ yo woman with h/o ESRD s/p cadaveric transplant ___ y ago, h/o 
cerebral aneurysm, admitted in ___ for urosepsis, who presented 
to ___ clinic at ___ for fevers, aches, confusion, and 
referred to ED for further evaluation. Admitted to medical 
floors. Hospital course complicated by brief transfer to ICU for 
AMS on ___ and subsequently transferred back to the medical 
floors ___. 

#AMS/ metabolic encephalopathy: 
On admission patient was very somnolent though agitated when 
aroused. CT head was negative and labs relatively unremarkable. 
Etiology was presumed hypoactive delirium in setting of UTI. 
Despite adequate treatment and fluid resuscitation mental status 
worsened on first day of admission for unclear reasons; patient  
became progressively more somnolent with periods of apnea. 
Antibiotics were broadened to meningitic/encephalitic coverage. 
She was given 0.4 mg narcan with improvement, raising concern 
for outpatient opiate use with impaired clearance in setting of 
renal failure. Given this concern and potential need for narcan 
drip patient was transferred to MICU. 
Patient was empirically covered for HSV encephalitis with IV 
acyclovir (on po acyclovir 200mg QD as outpatient). UTI 
initially treated with meropenem in ED, then ceftriaxone, then 
vancomycin when urine cx grew enterococcus. Pt remained 
somnolent, minimally responsive. Her son informed the team that 
she has had similarly profound mental status changes in the 
setting of prior urinary tract infections, and he recommended 
giving the abx more time to work.  When urine culture and 
sensitivities revealed E Faecalis resistant to vancomycin, abx 
changed to ampicillin (___). The following morning she was 
alert, oriented x3, answering questions and following commands. 
Stool also tested positive for c. diff and she was started on po 
flagyl TID (___). Given marked improvement in mental status 
after these interventions and continued low suspicion for HSV 
encephalitis on exam, IV acyclovir was discontinued and home po 
acyclovir restarted. Patient was monitored for clinical 
stability and demonstrated no deterioration. Discharged on ___mpicillin and 14 day course metronidazole. Per 
___ consultation, discharged to rehab. 

# Urinary tract infection: As above, patient presented with 
positive UA. Culture grew ENTEROCOCCUS FAECALIS. She was 
initially given meropenen in ED and then transitioned to 
ceftriaxone, then vancomycin, and ultimately to ampicillin based 
on sensitivities. Day 1= ___. Patient to complete 14 day course 
of ampicillin.

#C diff: Patient started on flagyl per above. Planned ___fter completion of ampicillin. 

# Hypoxemia: New O2 requirement to 3L NC on admission. This was 
thought likely secondary to hypoventilation in setting of 
altered mental status as CXR was unremarkable, patient was 
breathing comfortably. O2 weaned prior to discharge.

___: Patient ESRD s/p allograft. Cr 2.6 on admission from 
baseline around 1.4, subsequently trended pack to baseline. 
Suspected prerenal etiology in setting of UTI/poor PO/c diff. 
Renal transplant team followed daily. Daily tacrolimus levels 
checked and tacrolimus changed from 0.5 BID to 0.5 QD given 
increased troughs. Prednisone and calcitriol continued at home 
doses. Home prophylactic acyclovir restarted per above. 

# S/p cadaveric renal transplant: Baseline Cr somewhat unclear 
but appears around 1.4. It was not clear patient was regularly 
filling prednisone/tacrolimus. In ED tacro level was slightly 
low at 4.4. She was initially continued on tacrolimus 0.5mg BID; 
tacrolimus decreased to 0.5mg QD given elevated troughs thought 
to be secondary to diarrhea. Patient discharged on 0.5mg QD with 
plan for lab recheck ___ and adjustment according to troughs. 
Acyclovir was managed per above. Home calcitriol and prednisone 
was continued.  

#atrial fibrillation with RVR: Patient was on metoprolol XL as 
outpatient. In setting of this being held she had episode of 
afib with RVR to 180s, blood pressure stable, with response to 
metoprolol 5 mg IV x1. She was restarted on PO metoprolol. She 
was monitored on telemetry for the remainder of her hospital 
stay and had no further episodes of rapid atrial fibrillation. 

#R hip pain: Patient reported R hip pain of months duration, 
much worse in last few days prior to admission and prompting her 
clinic visit on the day of admission. Given h/o osteonecrosis of 
bilateral feet and L hip requiring surgical intervention and 
girdlestone procedure, pelvis and R hip films performed. These 
films demonstrated degenerative changes, though no acute 
findings. Further evaluation deferred to outpatient setting.

# Anemia of mixed etiology: Labs most consistent with iron 
deficiency likely superimposed on anemia from CKD. B12 and 
folate normal. No evidence of blood loss. Iron supplementation 
was not started during this hospital stay. 
 
# CAD: Continued aspirin, statin, metoprolol (metoprolol per 
above). 

Transitional Issues: 
====================
- Tacrolimus home dose of 0.5mg BID was decreased to 0.5 mg QD. 
Please get labs ___: Tacrolimus trough and BMP. Fax 
results to ___ clinic ATTN ___. ___ ___. 
Adjust tacrolimus dosage per trough per Dr. ___ 
___. 
- Patient to follow up with nephrology within the next week 
- Patient diagnosed with UTI e faecalis R to vancomycin. 
Ampicillin prescribed for 14 day course total (D1= ___ THROUGH 
___ 
- Patient diagnosed with C diff positive. Started on flagyl for 
non-severe disease. She should continue on flagyl THROUGH ___, which will be one week after she completes her ampicillin 
course 
- HCP ___ and son ___ concerned about 
ability to care for self; question of medication compliance, 
self care. Discharged to rehab. Please follow closely. 
- Anemia consistent with iron deficiency, please follow up for 
GI evaluation and consider initiating iron supplementation. 

# CODE: DNR/DNI, confirmed with HCP ___
# CONTACT: ___ ___, son ___ 
___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 200 mg PO Q24H 
2. Calcitriol 0.5 mcg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. PredniSONE 5 mg PO DAILY 
5. Rosuvastatin Calcium 40 mg PO Q24H 
6. Tacrolimus 0.5 mg PO BID 
7. Metoprolol Succinate XL 100 mg PO DAILY 
8. Omeprazole 40 mg PO Q12H 
9. ClonazePAM 0.5 mg PO BID 
10. OxycoDONE (Immediate Release)  5 mg PO Q8H:PRN pain 
11. Aspirin 81 mg PO DAILY 
12. diclofenac sodium 1 % topical QID R hip 

 
Discharge Medications:
1. Acyclovir 200 mg PO Q24H 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.5 mcg PO DAILY 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Omeprazole 40 mg PO Q12H 
6. PredniSONE 5 mg PO DAILY 
7. Rosuvastatin Calcium 40 mg PO Q24H 
8. Ampicillin 500 mg PO Q6H 
to be taken THROUGH ___ 
___. Lidocaine 5% Patch 1 PTCH TD QPM R hip pain 
10. MetroNIDAZOLE 500 mg PO Q8H 
to be taken THROUGH ___. ClonazePAM 0.5 mg PO BID 
12. diclofenac sodium 1 % TOPICAL QID R hip 
13. Metoprolol Succinate XL 100 mg PO DAILY 
14. OxycoDONE (Immediate Release)  5 mg PO Q8H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 8 hours Disp #*20 
Tablet Refills:*0
15. Tacrolimus 0.5 mg PO Q24H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
metabolic encephalopathy
Enteroccocal Urinary tract infection 
recurrent Clostridium difficile infection 
Acute Kidney Injury 

Secondary diagnosis: 
s/p renal transplant
Anemia of chronic disease and iron deficiency
Coronary artery disease

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive. 
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for confusion and altered 
mental status. You were found to have a urinary tract infection 
and an infection of your stool called "c. diff." We treated 
these with antibiotics and your confusion cleared. You will 
continue these antibiotics as an outpatient. 

We also decreased your tacrolimus dose since the levels were 
elevated due to your diarrhea. You will need labs on ___ 
(tomorrow) and your tacrolimus dose will be adjusted 
accordingly. 

You were also experiencing right hip and groin pain that you 
reported had been going on for the past few months. We performed 
a X-ray of your right hip and pelvis. This revealed no new acute 
findings or fracture, which is reassuring.

You should follow up with your primary care physician after you 
leave rehab. 

We wish you the best! It was truly a pleasure caring for you. 
Your ___ Care Team 
 
Followup Instructions:
___